US03950393
3 gm of 2-Amino-3-bromo-5-carbethoxy-N,N-diethyl-benzylamine were dissolved in 30 ml of benzene, and the solution was heated for 30 minutes with 3 ml of butyric acid chloride at 50°C. Thereafter, the mixture was evaporated to dryness in vacuo, and the residue was purified by chromatography on silicagel (eluant: benzene/ethyl acetate = 6:1), yielding 3-bromo-2-butyrylamino-5-carbethoxy-N,N-diethyl-benzylamine, which was converted into its hydrochloride, m. p. 134°C, with ethanolic hydrochloric acid.

reactant | 2-Amino-3-bromo-5-carbethoxy-N,N-diethyl-benzylamine | 3 gm | NC1=C(CN(CC)CC)C=C(C=C1Br)C(=O)OCC | C14H21BrN2O2
reactant | butyric acid chloride | 3 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-bromo-2-butyrylamino-5-carbethoxy-N,N-diethyl-benzylamine | BrC=1C(=C(CN(CC)CC)C=C(C1)C(=O)OCC)NC(CCC)=O | C18H27BrN2O3
